US07728010B2
To 4-(2-{[4-chloro-3-(trifluoromethyl)phenylamino)-1-methylbenzimidazol-5-yloxy)pyridine-2-carboxylic acid (1 eq) in tetrahydrofuran was added 2-piperidylethylamine (2 eq), HBTU (2 eq) and N,N-diisopropylethylamine (4 eq) and stir at ambient temperature for 16 h. The mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was concentrated and preparative chromatography yielded [4-(2-{[4-chloro-3-trifluoromethylphenyl]amino-1-methylbenzimidazol-5-yloxy)(2-pyridyl)]-N-(2-piperidylethyl)carboxamide. MS: MH+=558.

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenylamino)-1-methylbenzimidazol-5-yloxy)pyridine-2-carboxylic acid | 1 eq | ClC1=C(C=C(C=C1)NC1=NC2=C(N1C)C=CC(=C2)OC2(NC=CC=C2)C(=O)O)C(F)(F)F | C21H16ClF3N4O3
reactant | 2-piperidylethylamine | 2 eq | N1C(CCCC1)CCN | C7H16N2
reactant | HBTU | 2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 4 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-{[4-chloro-3-trifluoromethylphenyl]amino-1-methylbenzimidazol-5-yloxy)(2-pyridyl)]-N-(2-piperidylethyl)carboxamide | ClC1=C(C=C(C=C1)NC1=NC2=C(N1C)C=CC(=C2)OC2(NC=CC=C2)C2CC(NCC2)CCNC=O)C(F)(F)F | C28H30ClF3N6O2
